US05063197
24.4 g of 4-hydroxybenzaldehyde is mixed with 50 ml of dimethylformamide, 30.4 g of cinnamyl chloride and 30.4 g of potassium carbonate. The resulting mixture is stirred in a stream of nitrogen at 100°-110° C. for 5 hours and then cooled. The cooled mixture is added to 2 l of ice water to deposit solid. The solid is separated therefrom by filtration and then washed with water until the solid becomes neutral. The washed solid is dried and then recrystallized from 200 ml of ethanol to obtain 36.4 g of 4-cinnamyloxybenzaldehyde. Thus obtained 4-cinnamyloxybenzaldehyde has a melting point of 89.5°-90.5° C.

reactant | 4-hydroxybenzaldehyde | 24.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cinnamyl chloride | 30.4 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | potassium carbonate | 30.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-cinnamyloxybenzaldehyde | 36.4 g | C(C=CC1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C16H14O2
